US06147216
Step h: 2-[4-(4-Chloro-butyryl)-phenyl]-2-methyl-propionic Acid, N-methoxy-N-methylamide
Slurry AlCl3 (10.15 g, 76.1 mmol) and methylene chloride (45 mL) under a nitrogen atmosphere at room temperature. Add 4-chlorobutyryl chloride (4.27 mL, 38.1 mmol), stir for 20 minutes and add, by dropwise addition over 10 minutes, a solution of 2-methyl-2-phenyl-propionic acid, N-methoxy-N-methylamide (6.58 g, 31.7 mmol) in methylene chloride (15 mL). Stir at room temperature for 45 minutes, then heat at 30-35° C. for 7 hours. Pour into ice water (150 mL) and separate the layers. Wash the aqueous layer with water (3×75 mL), combine the aqueous layers and extract with methylene chloride (2×75 mL). Combine the organic layers and dry (Na2SO4). Filter, evaporate the filtrate in vacuo and purify by silica gel chromatography (3:1 hexane/ethyl acetate) give the title compound (6.19 g, 63%) as a light yellow oil.

reactant | AlCl3 | 76.1 mmol, 10.15 g | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | 4-chlorobutyryl chloride | 38.1 mmol, 4.27 mL | ClCCCC(=O)Cl | C4H6Cl2O
reactant | 2-methyl-2-phenyl-propionic acid, N-methoxy-N-methylamide | 31.7 mmol, 6.58 g | CON(C(C(C)(C1=CC=CC=C1)C)=O)C | C12H17NO2
solvent | methylene chloride | 15 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 45 mL | C(Cl)Cl | CH2Cl2
product | 2-[4-(4-Chloro-butyryl)-phenyl]-2-methyl-propionic Acid, N-methoxy-N-methylamide | 6.19 g, 63% | CON(C(C(C)(C)C1=CC=C(C=C1)C(CCCCl)=O)=O)C | C16H22ClNO3
